US03965257
4'-Fluoro-4-(4-diphenylmethylenepiperidino)butyrophenone
A mixture of 99.9 g (0.4 mole) of 4-diphenylmethylenepiperidine, 88 g (0.44 mole) of 4-chloro-4'-fluorobutyrophenone, 64.0 g (0.64 mole) of potassium bicarbonate and a small amount of potassium iodide in 1500 ml of toluene was refluxed for 5 days. The reaction mixture was filtered, and the filtrate was concentrated at reduced pressure leaving a residue which was dissolved in about 800 ml of ethyl acetate. This solution was concentrated to about 500 ml and allowed to stand for one day. The resulting precipitate was recrystallized from methanolethyl acetate, made basic with sodium hydroxide solution, water washed, and the product recrystallized from 75°-90° petroleum ether to give the title compound, M.P. 111°-114° C.

reactant | 4-diphenylmethylenepiperidine | 0.4 mole, 99.9 g | C1(=CC=CC=C1)C(=C1CCNCC1)C1=CC=CC=C1 | C18H19N
reactant | 4-chloro-4'-fluorobutyrophenone | 0.44 mole, 88 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | potassium bicarbonate | 0.64 mole, 64.0 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | [I-].[K+]
solvent | toluene | 1500 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | about 800 ml | C(C)(=O)OCC | C4H8O2
product | 4'-Fluoro-4-(4-diphenylmethylenepiperidino)butyrophenone | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H28FNO
